US04618677
15 g of thiourea were added to a solution of 35 g of 1-benzyl-4-(3-chloropropyl)piperazine dihydrochloride, 20 g of triethylamine and 250 ml of reagent ethanol, and the mixture was refluxed for 8 hours. After the addition of a solution of 10 g of sodium hydroxide in 50 ml of water, the resulting mixture was refluxed for 4 additional hours. The ethanol was removed in vacuo, and water added to the residue which was extracted with methylene chloride, dried (sodium sulfate), and the salt was precipitated with ethereal hydrochloric acid to give 25.1 g (78% of theory) of 3-(4-benzylpiperazin-1-yl)propanethiol dihydrochloride as a white crystalline solid, M.p. 270°-273° C. (dec.).

reactant | thiourea | 15 g | NC(=S)N | CH4N2S
reactant | 1-benzyl-4-(3-chloropropyl)piperazine dihydrochloride | 35 g | Cl.Cl.C(C1=CC=CC=C1)N1CCN(CC1)CCCCl
reactant | triethylamine | 20 g | C(C)N(CC)CC | C6H15N
reactant | sodium hydroxide | 10 g | [OH-].[Na+]
solvent | water | 50 ml | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 3-(4-benzylpiperazin-1-yl)propanethiol dihydrochloride | 25.1 g, 78% | Cl.Cl.C(C1=CC=CC=C1)N1CCN(CC1)CCCS | InChI=1S/C14H22N2S.2ClH/c17-12-4-7-15-8-10-16(11-9-15)13-14-5-2-1-3-6-14;;/h1-3,5-6,17H,4,7-13H2;2*1H
